US04458079
A solution of 1-(2,2-diethoxyethyl)-1H-imidazole (3.68 g, 0.020 mole), 4-chlorothiophenol (2.88 g, 0.020 mole) and 4-chlorobenzyl mercaptan (3.16 g, 0.020 mole) in chloroform (50 ml) was added dropwise during 30 minutes to a stirred, refluxing mixture of boron trifluoride etherate (4.8 ml, 0.036 mole) and acetic acid (10 ml) in chloroform (30 ml). The mixture was stirred under reflux for 18 hours and concentrated. The residue was partitioned between diethyl ether and cold aqueous sodium hydroxide. The organic layer was washed with water (2×) followed by brine and dried over Na2SO4. Hydrogen chloride was bubbled into the ethereal filtrate to afford a mixture of the hydrochloride salts of the three possible mercaptals. The mixture was crystallized from ethanol-ether to yield 1.4 g of 1-[2,2-bis(4-chlorobenzylthio)ethyl]-1H-imidazole hydrochloride, mp 180°-183°. Dilution of the mother liquor with additional ether provided 2.2 g of the title compound, mp 135°-137°, which melted at 136°-139° after recrystallization from chloroform-ether.

reactant | 1-(2,2-diethoxyethyl)-1H-imidazole | 0.020 mole, 3.68 g | C(C)OC(CN1C=NC=C1)OCC | C9H16N2O2
reactant | 4-chlorothiophenol | 0.020 mole, 2.88 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | 4-chlorobenzyl mercaptan | 0.020 mole, 3.16 g | ClC1=CC=C(CS)C=C1 | C7H7ClS
reactant | boron trifluoride etherate | 0.036 mole, 4.8 ml | B(F)(F)F.CCOCC
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-[2,2-bis(4-chlorobenzylthio)ethyl]-1H-imidazole hydrochloride | 1.4 g | Cl.ClC1=CC=C(CSC(CN2C=NC=C2)SCC2=CC=C(C=C2)Cl)C=C1 | InChI=1S/C19H18Cl2N2S2.ClH/c20-17-5-1-15(2-6-17)12-24-19(11-23-10-9-22-14-23)25-13-16-3-7-18(21)8-4-16;/h1-10,14,19H,11-13H2;1H
